US03932375
Synthesis of N-benzhydrylcarbonyl glycine
0.7506 Gram (0.01 mole) of glycine and 2.1 ml. (0.015 mole) of triethylamine were added to 5.5 ml. of water. To the resulting mixture was added a solution of 3.8549 g. (0.011 mole) of benzhydroxy 4,6-dimethylpyrimidyl-2-thiolcarbonate in 11 ml. of dioxane, and the mixture was reacted overnight under stirring at room temperature. After completion of the reaction, the reaction liquid was charged with 50 ml. of water and washed twice with 30 ml. of ethyl acetate. Subsequently, the aqueous phase was adjusted, under cooling to 0°C., to pH 2 by addition of 15 ml. of a cold 5N aqueous hydrochloric acid solution, and then extracted once with 30 ml. of ethyl acetate and twice with 15 ml. of ethyl acetate. Thereafter, the ethyl acetate phases were united together, washed twice with 15 ml. of a cold aqueous hydrochloric acid solution and twice with 30 ml. of a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate, and then the ethyl acetate was removed by distillation to obtain 2.731 g. of crude N-benzhydroxycarbonyl glycine in yield of 95.7 %. When recrystallized from an ether-petroleum ether solvent, the product showed a melting point of 113° to 115°C.

reactant | glycine | 0.01 mole | NCC(=O)O | C2H5NO2
reactant | triethylamine | 0.015 mole | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | N-benzhydroxycarbonyl glycine | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NCC(=O)O | C16H15NO4
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-benzhydrylcarbonyl glycine | yield of 95.7 % | C(C1=CC=CC=C1)(C1=CC=CC=C1)C(=O)NCC(=O)O | C16H15NO3
